US08168794B2
To a solution of diethyl 4-chloropiperidin-3-ylphosphoramidate (1.0 equiv.) in isopropyl alcohol (0.1M) was added 4-chloro-3-nitropyridine (2.0 equiv.) and DIEA (1.1 equiv.). The reaction was heated to 70° C. for 18 h, then quenched with water and extracted with ethyl acetate. The organics were dried and concentrated under vacuo. The crude was purified via ISCO (ethyl acetate and hexanes then 10% methanol in DCM) to yield diethyl 4-chloro-1-(3-nitropyridin-4-yl)piperidin-3-ylphosphoramidate in 69% yield. LCMS (m/z): 393.1 (MH+), Rt=2.01 min.

reactant | diethyl 4-chloropiperidin-3-ylphosphoramidate | 1.0 equiv. | ClC1C(CNCC1)NP(OCC)(OCC)=O | C9H20ClN2O3P
reactant | 4-chloro-3-nitropyridine | 2.0 equiv. | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | DIEA | 1.1 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | isopropyl alcohol | 0.1M | C(C)(C)O | C3H8O
product | diethyl 4-chloro-1-(3-nitropyridin-4-yl)piperidin-3-ylphosphoramidate | 69% yield | ClC1C(CN(CC1)C1=C(C=NC=C1)[N+](=O)[O-])NP(OCC)(OCC)=O | C14H22ClN4O5P
